data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-F_1-C#N_2-Br_3-C#N_4-C_5-Br_6-OC_7-Br_8-S(=O)(=O)C_9-Cl","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(C#N)c(Br)c(C#N)c(C)c(Br)c1O","c1(OC)c(Br)c(S(=O)(=O)C)c(Cl)c(F)c1I"],"products_smiles": ["c1(C#N)c(Br)c(C#N)c(C)c(Br)c1Oc2c(OC)c(Br)c(S(=O)(=O)C)c(Cl)c2(F)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C#N)c(Br)c(C#N)c(C)c(Br)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(Br)c(S(=O)(=O)C)c(Cl)c(F)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(OC)c(Br)c(S(=O)(=O)C)c(Cl)c(F)c2[Cu](I)Oc1c(C#N)c(Br)c(C#N)c(C)c1(Br)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(Br)c(C#N)c(C)c(Br)c1Oc2c(OC)c(Br)c(S(=O)(=O)C)c(Cl)c2(F)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
{"reaction_id": "NR-071_1-C(F)(F)F_2-c1ccccc1_3-C(C)(C)C_4-C_5-CCCC(C)C_6-C(F)(F)F_7-c1ccccc1","name": "Evans-Mislow Rearrangement","level": "medium","reactants_smiles": ["C(C(F)(F)F)(c1ccccc1)=C(C(C)(C)C)C(C)(CCCC(C)C)S(=O)(C(F)(F)F)","O(c1ccccc1)P(O(c1ccccc1))O(c1ccccc1)"],"products_smiles": ["OC(C(F)(F)F)(c1ccccc1)C(C(C)(C)C)=C(C)(CCCC(C)C)"],"conditions": "P(OR)3","mechnism_text_description": "The reaction proceeds via a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to form an allylic sulfenate ester intermediate. This intermediate is then trapped by a thiophilic reagent, trialkyl phosphite, which attacks the sulfur atom. This attack results in the cleavage of the S-O bond to form an alkoxide. Subsequent protonation of the alkoxide yields the final allylic alcohol product.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "S(C(F)(F)F)OC(C(F)(F)F)(c1ccccc1)C(C(C)(C)C)=C(C)(CCCC(C)C)","step_weight": 0,"rationale": "The [2,3]-sigmatropic rearrangement proceeds via a concerted pericyclic pathway, driven by favorable orbital overlap and stabilization of the developing charges through conjugation with the allylic system."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[O-]C(C(F)(F)F)(c1ccccc1)C(C(C)(C)C)=C(C)(CCCC(C)C)","step_weight": 0,"rationale": "Trialkyl phosphite, being a strong nucleophile toward soft electrophiles, attacks the sulfur atom, exploiting sulfur’s polarizability and leading to S–O bond cleavage to form a stabilized alkoxide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(F)(F)F)(c1ccccc1)C(C(C)(C)C)=C(C)(CCCC(C)C)","step_weight": 0,"rationale": "The alkoxide is protonated under the reaction conditions to yield the neutral allylic alcohol, driven by the thermodynamic stability of the alcohol and the availability of proton sources."}],"description": "The reaction involves a [2,3]-sigmatropic rearrangement of the allylic sulfoxide to generate a sulfenate ester, which is then attacked by trialkyl phosphite at sulfur due to its thiophilicity. This cleavage yields an alkoxide, which is protonated to form the allylic alcohol."}
